US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (300 mg, 1.5 mol) and 4-amino-2.3-xylenol (206 mg, 1.5 mmol) reacted to give 1-[4-acetyl-1-(4-hydroxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone as yellow solid: MS (ESI) 300 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 1.5 mol, 300 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 4-amino-2.3-xylenol | 1.5 mmol, 206 mg | NC1=C(C(=C(C=C1)O)C)C | C8H11NO
product | 1-[4-acetyl-1-(4-hydroxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C(=C(C=C1)O)C)C)C)C(C)=O | C18H21NO3
